US06884868B1
A mixture of 1-acetyl-4-(4-trifluoromethanesulfonyloxyphenyl)piperazine (3 g), 4-methoxy-4-phenylpiperidine (1.63 g), acetic acid palladium(II) salt (0.11 g), racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.42 g) and cesium carbonate (3.88 g) in toluene (17 ml) was stirred for 30 minutes at ambient temperature. After being stirred for a further 17 hours at 100° C., the reaction mixture was diluted with dichloromethane. The suspension was filtered through celite, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica using ethyl acetate/methyl alcohol (30:1) as the elution to give 1-acetyl-4-[4-(4-methoxy-4-phenylpiperidin-1-yl)phenyl]piperazine (2.65 g).

reactant | 1-acetyl-4-(4-trifluoromethanesulfonyloxyphenyl)piperazine | 3 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C13H15F3N2O4S
reactant | 4-methoxy-4-phenylpiperidine | 1.63 g | COC1(CCNCC1)C1=CC=CC=C1 | C12H17NO
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.42 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 3.88 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | acetic acid palladium(II) salt | 0.11 g | [Pd+2].C(C)(=O)[O-].C(C)(=O)[O-]
product | 1-acetyl-4-[4-(4-methoxy-4-phenylpiperidin-1-yl)phenyl]piperazine | 2.65 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)(C1=CC=CC=C1)OC | C24H31N3O2
